US08877803B2
To a solution of 20 gram (0.11 moles) of 2-hydroxy-1,4-naphthoquinone in 200 ml of DMSO, 16.5 grams (0.11 moles) of sodium iodide, 15.3 ml (0.11 moles) of triethylamine and 23.8 grams (0.12 moles) of cinnamyl bromide were added. The mixture was vigorously stirred at 50° C. overnight, and then cooled by addition of 400 ml of ice water, and the resulting mixture was extracted with 300 ml of toluene twice. The combined organic phase was washed successively with 500 ml of water, and 400 ml of 2N sodium hydroxide twice, and 500 ml of water. The organic phase was dried with sodium sulfate and evaporated to dryness. The crude product 2-2 (R1=H, R4=H, R7=C6H5) residue was dissolved in 200 ml of anhydrous ethanol and refluxed for 3 hours. After evaporation, the residue was dissolved in 200 ml of toluene, and extracted with 200 ml of 2N sodium hydroxide twice. The combined extract was neutralized by addition of concentrated hydrochloric acid to pH 3-5, and extracted with 300 ml of dichloromethane. The dichloromethane solution was washed with equal volume of water, and dried with sodium sulfate, and then evaporated to yield crude lapachol analog 2-3 (R1=H, R4=H, R7=C6H5). To 2 grams of crude 2-3 (R1=H, R4=H, R7=C6H5), 20 ml of sulfuric acid was added, and the resulting mixture was placed at room temperature for 1 hour. The sulfuric acid mixture was poured into 200 ml of water and extracted with 200 ml of dichloromethane twice to give crude dunione analog 2-4 (R1=H, R4=H, R7=C6H5) which was then purified with silica gel chromatograph. Treatment of 2-4 (R1=H, R4=H, R7=C6H5) with N-bromosuccinimide and lead (IV) acetate was performed according to the procedure described in example 9 to give crude 2-5 (R1=H, R4=H, R7=C6H5). Without silica gel chromatograph, the crude 2-5 (R1=H, R4=H, R7=C6H5) was directly dissolved in 200 ml ethanol/concentrated HCl (1:1) and refluxed for 1 hour to give crude 2-6 (R1=H, R4=H, R7=C6H5) which was purified with silica gel chromatograph. Overall yield 10%. 2-methyl-3-phenyl-4H,9H-naphtho[2,3-b]furan-4,9-dione 2-6 (R1=H, R4=H, R7=C6H5) 1H NMR (in CDCl3) δ 2.51 (s, 3H), 7.42-7.50 (m, 5H), 7.71-7.74 (m, 2H), 8.10-8.13 (m, 1H), 8.21-8.23 (m, 1H).

reactant | 2-hydroxy-1,4-naphthoquinone | 0.11 moles, 20 gram | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | sodium iodide | 0.11 moles, 16.5 grams | [I-].[Na+]
reactant | triethylamine | 0.11 moles, 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | cinnamyl bromide | 0.12 moles, 23.8 grams | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | lapachol | yield 10% | CC(=CCC1=C(C(=O)C=2C=CC=CC2C1=O)O)C | C15H14O3
